US06670379B2
Preparation of (S)-4-[4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazolidine-3-carboxylic Acid tert-Butyl Ester
To a solution of (4-fluoro-phenyl)-piperidin-4-yl-methanone (3.5 g, 17 mmol) in dry tetrahydrofuran (50 ml) is added (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (3.9 g, 17 mmol) and sodium triacetoxyborohydride (5.4 g, 25 mmol), and the reaction mixture stirred for 18 hours at ambient temperature. The reaction mixture is filtered and the solvent evaporated to give a white solid. The solid is taken up in dichloromethane (50 ml) and washed with saturated sodium bicarbonate solution (50 ml), water (2×50 ml) and brine (50 ml). The organic phase is dried over magnesium sulphate and evaporated to afford the product, [MH]+420.9.

reactant | (4-fluoro-phenyl)-piperidin-4-yl-methanone | 17 mmol, 3.5 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 17 mmol, 3.9 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C=O)(C)C | C11H19NO4
reactant | sodium triacetoxyborohydride | 25 mmol, 5.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-4-[4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazolidine-3-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)(C)C | C23H33FN2O4
